US07166621B2
Preparation of 2-bromo-N-(5-methylhex-3-yn-5-yl)butyramide.
5-Amino-5-methylhex-3-yne hydrochloride (2.21 g) was dissolved in dry dichloromethane (50 ml) and cooled to 5° C. with stirring. 2-Bromobutyryl bromide (3.45 g) was added to the mixture and dry triethylamine (4.17 ml) was added dropwise while maintaining the reaction temperature between 8–15° C. by cooling during the addition. The suspension, which had formed during the reaction, was diluted with further dry dichloromethane (20 ml) and stirred at 5° C. for 0.5 hours. The mixture was allowed to warm to ambient temperature and stirred for a further 2 hours. The reaction was treated with water and extracted with dichloromethane. The organic phase was separated, washed with water (three times), dried over magnesium sulphate and evaporated under reduced pressure to give a brown oil. The oil was fractionated by chromatography (silica; hexane/diethyl ether, 1:1 by volume) to give the required product, as a pale yellow solid, 3.17 g, m.p. 53–55° C.

reactant | 5-Amino-5-methylhex-3-yne hydrochloride | 2.21 g | Cl.NC(C#CCC)(C)C
reactant | 2-Bromobutyryl bromide | 3.45 g | BrC(C(=O)Br)CC | C4H6Br2O
reactant | triethylamine | 4.17 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | hexane diethyl ether | CCCCCC.C(C)OCC
product | 2-bromo-N-(5-methylhex-3-yn-5-yl)butyramide | BrC(C(=O)NC(C#CCC)(C)C)CC | C11H18BrNO
